* C:\Users\a9300\OneDrive\Documentos\maestria\microondas 1\proyectos\simulador\ejemplos LTspice\ejemplo1.asc
R1 Vb Va 10
R2 Vb 0 20
R3 Va 0 15
R5 0 Vb 35
R4 Vb Va 30
.op
.backanno
.end
